US07214673B2
2-Methyl-4H-3-thia-4,9-diaza-benzo[f]azulene-10-ylamine
Slurry 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene-10-ylamine hydrochloride (5.2 g, 19.5 mmol) in water and add 1N sodium hydroxide (19.5 mL, 19.5 mmol). Add methanol to facilitate stirring and extract with methylene chloride. Purify the methylene chloride extracts by silica gel chromatography using 7N ammonia in methanol-methylene chloride (5%) as the eluent to give (4.13 g, 92%) of the title compound.

reactant | 2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene-10-ylamine hydrochloride | 19.5 mmol, 5.2 g | Cl.CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N
reactant | sodium hydroxide | 19.5 mmol, 1N, 19.5 mL | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-Methyl-4H-3-thia-4,9-diaza-benzo[f]azulene-10-ylamine | 4.13 g, 92% | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N | C12H11N3S
